US04097424
30 parts by weight of toluene diisocyanate are slowly added and mixed with the said 1,4-butanediol silicate powder, thereby rapidly forming a light tan, solid polymer, poly(toluene diisocyanate butanediol silicate).

reactant | toluene diisocyanate | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | 1,4-butanediol silicate | [Si](O)(O)(O)O.C(CCCO)O
product | toluene diisocyanate butanediol silicate | [Si](O)(O)(O)O.C(CCC)(O)O.CC=1C(N=C=O)=CC(N=C=O)=CC1 | InChI=1S/C9H6N2O2.C4H10O2.H4O4Si/c1-7-2-3-8(10-5-12)4-9(7)11-6-13;1-2-3-4(5)6;1-5(2,3)4/h2-4H,1H3;4-6H,2-3H2,1H3;1-4H
